US06476026B1
A solution of ethyl 4-aminopiperidine-1-carboxylate (4.3 g, 0.025 mol) in dry THF was cooled to 0° C. and then treated with triethylamine (3.83 mL, 27.5 mol) and thiophosgene (2.1 mL, 27.5 mmol). The mixture was stirred for 1.5 hours at room temperature, cooled at 0° C. and then treated with ammonium hydroxide solution (7.7 mL, 28% in water). The mixture was stirred for approximately 12 hours and then concentrated by evaporation. The residue was taken up into ethyl acetate and the mixture was treated with a saturated solution of NaHCO3 and brine. The organic phase was separated, dried over sodium sulfate and then concentrated to dryness. The residue was taken up into diethyl ether and a resulting solid was collected by filtration and washed with diethyl ether to provide ethyl 4-thioureidopiperidine-1-carboxylate (4.18 g, 72% V). HNMR (dmso-d6): 7.57 (1H, d), 6.9 (1H, s), 4.05 (1H, bs), 4.02 (2H, q), 3.86 (2H, d), 2.89 (2H, bs), 1.82 (2H, bs), 1.20 (2H, m), 1.17 (3H, t).

reactant | ethyl 4-aminopiperidine-1-carboxylate | 0.025 mol, 4.3 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | triethylamine | 27.5 mol, 3.83 mL | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 27.5 mmol, 2.1 mL | C(=S)(Cl)Cl | CCl2S
reactant | ammonium hydroxide | 7.7 mL | [OH-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 4-thioureidopiperidine-1-carboxylate | 4.18 g, 72% | N(C(=S)N)C1CCN(CC1)C(=O)OCC | C9H17N3O2S
